Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R arm weakness, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with PMHx of obesity, HTN, OSA who 
presents with R arm numbness associated with nausea and 
lightheadedness. Of note, she also complains of passing out 2 
weeks ago when she was kneeing on a stool reaching up to adjust 
her curtains and the next thing she knew she woke up face down 
on the counter with her arms under her head. Denies head strike. 
She recalls feeling a little lightheaded when reaching up prior 
to passing out. She did not seek medical attention at that time. 
This afternoon, while folding laundry, her right arm went very 
numb for a few minutes two separate times and then the numbness 
resolved w/o intervention. About one hour after that she had a 
couple hours of nausea and lightheadedness that felt better when 
resting but resolved without intervention. She notes that she 
has a h/o herniated disk to c-spine that was found when she had 
an episode of LUE numbness. She notes occasional R arm numbness 
from the shoulder down but has never had a syncopal episode 
before. She also states that she has been taking phentermine 
inconsistently for weight loss but has not noticed any side 
effects (has lost 6 lbs intentionally). She denies neck and arm 
pain at this time. She otherwise denies palpitations, CP, SOB, 
nausea, vomiting, diarrhea, HA, neck pain, recent illness, 
asthma, allergies, no sensation of room spinning or dizziness 
with change in motion/movement. In the ED, initial VS were 98.0 
134/86 83 18 100%RA. Exam notable for... "no cardiac or 
pulmonary abnormalities" Labs showed normal CBC, chem 7, 
negative troponin x1, ___ troponin pending at time of admission. 
Imaging showed: CXR PA/LAT: No acute intrathoracic process. 
Transfer VS were: 98.1 131/53 69 17 99%RA. Decision was made to 
admit to ___ for further management, arrangement for TTE/holter 
monitor. 
 

 
Past Medical History:
Hyperlipidemia 
Hypertension, essential 
Breast atypical hyperplasia 
Vitamin D deficiency 
Herpes simplex 
S/P laparoscopic cholecystectomy - ___ - Dr. ___ 
___ 
Knee pain, bilateral 
Sleep apnea, obstructive wears CPAP
herniated disk, c-spine 

 
Social History:
___
Family History:
NO family history of stroke. Maternal Uncle with MI at age ___. 
Family h/o breast CA and throat CA. 

 
Physical Exam:
PHYSICAL EXAM:
VS - 98.0, 124/72, 72, 18, 96% RA  
GENERAL: well appearing woman in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition, no LAD, no radiculopathy with downward 
compression of head/neck. 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Mild pain to palpation of medial 
epicondyle and pronator tendon
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
LABS
___ 09:15PM   PLT COUNT-332
___ 09:15PM   NEUTS-53.4 ___ MONOS-7.1 EOS-8.0* 
BASOS-0.9 IM ___ AbsNeut-3.02 AbsLymp-1.72 AbsMono-0.40 
AbsEos-0.45 AbsBaso-0.05
___ 09:15PM   WBC-5.7 RBC-4.18 HGB-12.5 HCT-38.4 MCV-92 
MCH-29.9 MCHC-32.6 RDW-12.3 RDWSD-41.6
___ 09:15PM   cTropnT-<0.01
___ 09:15PM   estGFR-Using this
___ 09:15PM   GLUCOSE-90 UREA N-13 CREAT-0.8 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-97 TOTAL CO2-28 ANION GAP-14
___ 03:12AM   cTropnT-<0.01
___ 08:43AM   PLT COUNT-342
___ 08:43AM   WBC-4.9 RBC-4.38 HGB-13.3 HCT-40.1 MCV-92 
MCH-30.4 MCHC-33.2 RDW-12.4 RDWSD-41.6
___ 08:43AM   CALCIUM-9.7 PHOSPHATE-4.6* MAGNESIUM-2.1

ECHO: PENDING AT DISCHARGE

CXR:
IMPRESSION: No acute intrathoracic process. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with PMHx of obesity, HTN, OSA who 
presented with R arm numbness associated with nausea and 
lightheadedness. The patient had several episodes of R arm 
numbness on the day of admission along with nausea and 
lightheadedness as well as a single pre-syncopal episode over a 
week prior to admission. She was admitted for work-up of these 
symptoms. Troponin was negative X 2. She received a TTE whose 
result was pending at discharge and a holter monitor to take 
home with her. Her lisinopril was reduced to 20mg daily and it 
was recommended that she stop her phentermine. The patient 
remained stable without further symptoms and was discharged with 
plans for outpatient follow-up.

TRANSITIONAL ISSUES:
[] Lisinopril dose reduced to 20mg
[] Phentermine discontinued
[] Echo pending at discharge, please f/up in the outpatient 
setting
[] Patient provided with a holter monitor, please f/up in the 
outpatient setting
[] ___ consider further imaging for work-up of arm numbness if 
persists in the outpatient setting
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. phentermine 37.5 mg oral DAILY 

 
Discharge Medications:
1.  Citalopram 40 mg PO DAILY  
2.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Dizziness

Secondary Diagnosis: Obstructive Sleep Apnea, Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___. 

You were admitted due to an episode of dizziness at home. While 
in the hospital, we reduced your dose of your blood pressure 
medication (Lisinopril), stopped your phentermine and provided 
you with a device to monitor your heart rhythm for 24 hours (a 
Holter Monitor). We also obtained an echo which was pending at 
the time of discharge.

Please follow-up with your primary care physician this week 
regarding the results of this echo and management of your 
symptoms going forward.

Best wishes,

Your ___ Team
 
Followup Instructions:
___